US07902369B2
1) Manufacture of 6-bromo-2-tert-butyl-imidazo[1,2-a]pyridine
1-bromopinacolone (178 mg) was dissolved in 2.0 ml of ethanol, 156 mg of 2-amino-5-bromopyridine was added, and the mixture was stirred all night by heating under reflux. After cooled down to room temperature, the solvents were distilled outunder reduced pressure, ethyl acetate followed by saturated sodium hydrogen carbonate aqueous solution were added. Organic layer was dried with anhydrous sodium sulfate, and the solvents were distilled outunder reduced pressure. The obtained residues were purified by preparative thin-layer silicagel chromatography (hexane:ethyl acetate=75 :25) to obtain 186 mg of the above compound as a white solid.

reactant | 1-bromopinacolone | 178 mg | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | 2-amino-5-bromopyridine | 156 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 6-bromo-2-tert-butyl-imidazo[1,2-a]pyridine | 186 mg | BrC=1C=CC=2N(C1)C=C(N2)C(C)(C)C | C11H13BrN2
